US07601714B2
(1S)-2-[(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)amino]-1-pyridin-3-ylethanol
A mixture of N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine (124 mg, 0.28 mmol), (S)-3-oxiranyl-pyridine (34 mg, 0.28 mmol) and lithium perchlorate (60 mg, 0.56 mmol) in CH3CN was heated to 100° C. in a sealed tube and stirred for 1 h. The reaction mixture was concentrated and diluted with ethyl acetate. The solution was then treated with 1M Na2CO3 and the organic phase was separated. The aqueous phase was re-extracted with ethyl acetate (×2). The combined organic phase was dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel prep TLC using 10:1:0.05 CH2Cl2:MeOH:NH4OH as an eluent to afford 15 mg of the title compound as an off-white solid (10%), m/z 562.7 [M+1]+.

reactant | N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 0.28 mmol, 124 mg | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C19H23F3N6O3
reactant | (S)-3-oxiranyl-pyridine | 0.28 mmol, 34 mg | O1[C@H](C1)C=1C=NC=CC1 | C7H7NO
reactant | lithium perchlorate | 0.56 mmol, 60 mg | Cl(=O)(=O)(=O)[O-].[Li+]
solvent | CH3CN | CC#N | C2H3N
product | (1S)-2-[(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)amino]-1-pyridin-3-ylethanol | 15 mg, 10% | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NC[C@@H]1CC[C@H](CC1)NC[C@@H](O)C=1C=NC=CC1 | C26H30F3N7O4
